US08859591B2
Step D: 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoic acid, Isomer 1
The title compound was prepared by a method analogous to that described in Step D of Example 82, using Isomer 1 of methyl 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoate. 1H NMR (400 MHz, CD3OD, δ): 8.68 (s, 1H), 8.41 (d, 1H), 7.95 (s, 1H), 7.72-7.75 (m, 1H), 7.54-7.57 (m, 2H), 7.45 (d, 1H), 6.49 (d, 1H), 5.08 (d, 1H), 3.55 (t, 2H), 2.56-2.60 (m, 5H), 2.08 (m, 1H), 1.68-1.79 (m, 4H), 1.40-1.50 (m, 1H), 1.00-1.35 (m, 5H). MS (M+1) 530.1. Chiral SFC: Chiralpak AD-3, 4.6×50 mm, 3 μm. Modifier: 0.05% DEA. Mobile Phase: 60/40 CO2/2-propanol. Flow: 4 mL/min. Retention time: 0.78 minutes, 99.7% ee (Isomer 1).

reactant | methyl 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoate | C1(CCCCC1)N(C1=NC=C(C(=O)NCCC(=O)OC)C=C1)CC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C28H32F3N5O3
reactant | CO2 2-propanol | C(=O)=O.CC(C)O
product | 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoic acid | C1(CCCCC1)N(C1=NC=C(C(=O)NCCC(=O)O)C=C1)CC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C27H30F3N5O3
